US05654307
n-Butyl lithium (2.18M, 24 mL, 52.51 mmol) is added slowly to a solution of 4-(N-t-butoxycarbonylamino)pyridine (4.08 g, 21 mmol) in THF (50 mL, stirred under N2 at -78° C. The solution is allowed to warm to 0° C., stirred for 3 h, then cooled again to -78° C. and poured into ether (100 mL) containing dry ice. The solution is warmed to room temperature with constant stirring. Water is added and the mixture is neutralized with acetic acid. The resulting solid is collected by vacuum filtration and dried in a vacuum oven to give 4-(N-t-butoxycarbonylamino)nicotinic acid (2.72 g, 54%) as a brown solid. 1H NMR (DMSO) δ 11.75 (1H, brs), 8.95 (1H, s), 8.50 (1H, d, J=6.0 Hz), 8.20 (1H, d, J=6.0 Hz), 1.49 (9H, s).

reactant | n-Butyl lithium | 52.51 mmol, 2.18M, 24 mL | C(CCC)[Li]
reactant | 4-(N-t-butoxycarbonylamino)pyridine | 21 mmol, 4.08 g | C(C)(C)(C)OC(=O)NC1=CC=NC=C1 | C10H14N2O2
reactant | ether | 100 mL | CCOCC | C4H10O
reactant | dry ice | C(=O)=O | CO2
solvent | THF | C1CCOC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | Water | O | H2O
product | 4-(N-t-butoxycarbonylamino)nicotinic acid | 2.72 g, 54% | C(C)(C)(C)OC(=O)NC1=CC=NC=C1C(=O)O | C11H14N2O4
